US08048902B2
Following the procedures described in Example 36: 4-bromo-3-fluorobenzoyl chloride and oxalyl chloride were reacted to provide 4-bromo-3-fluoro-benzoyl chloride, which was then reacted with 3-methylamino-but-2-enoic acid methyl ester to provide 2-(4-bromo-3-fluoro-benzoyl)-3-[(E)-methylimino]-butyric acid methyl ester. 2-(4-bromo-3-fluoro-benzoyl)-3-[(E)-methylimino]-butyric acid methyl ester and hydroxylamine hydrochloride were then reacted as described in Example 36, Step 3 to provide 5-(4-bromo-3-fluoro-phenyl)-3-methyl-isoxazole-4-carboxylic acid methyl ester, which was then hydrolyzed to 5-(4-bromo-3-fluoro-phenyl)-3-methyl-isoxazole-4-carboxylic acid as described in Example 36, Step 4. 5-(4-Bromo-3-fluoro-phenyl)-3-methyl-isoxazole-4-carboxylic acid and (R)-1-(2-chloro-phenyl)-ethanol were reacted to provide [5-(4-Bromo-3-fluoro-phenyl)-3-methyl-isoxazol-4-yl]-carbamic acid (R)-1-(2-chloro-phenyl)-ethyl ester as described in Example 36, Step 5.

reactant | 2-(4-bromo-3-fluoro-benzoyl)-3-[(E)-methylimino]-butyric acid methyl ester | COC(C(/C(/C)=N/C)C(C1=CC(=C(C=C1)Br)F)=O)=O | C13H13BrFNO3
reactant | hydroxylamine hydrochloride | Cl.NO
product | 5-(4-bromo-3-fluoro-phenyl)-3-methyl-isoxazole-4-carboxylic acid methyl ester | COC(=O)C=1C(=NOC1C1=CC(=C(C=C1)Br)F)C | C12H9BrFNO3
